US06087380
1-Methyl-2-[N-(5-amidino-thiazol-2-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(5-cyano-thiazol-2-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: % of theory, C24H26N8O3S (506.6) Rf value: (silica gel; dichloromethane/methanol=4:1)

reactant | 1-methyl-2-[N-(5-cyano-thiazol-2-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC=2SC(=CN2)C#N)C)C=C1)CCC(=O)OCC | C24H23N7O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-(5-amidino-thiazol-2-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC=2SC(=CN2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C24H26N8O3S.ClH/c1-3-35-21(33)9-11-32(19-6-4-5-10-27-19)23(34)15-7-8-17-16(12-15)30-20(31(17)2)14-29-24-28-13-18(36-24)22(25)26;/h4-8,10,12-13H,3,9,11,14H2,1-2H3,(H3,25,26)(H,28,29);1H
